US05360802
Step 3: N-[3(R,S)-5-Cyclohexyl-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl] N'-[3-(trifiuoromethylcarbonylaminosulphonyl) phenyl]urea
The title compound was prepared in the same way as that described in Example 11, Step 4, using 5-cyclohexyl-1,3-dihydro-1-methyl-3(R,S)-[(4-nitrophenyloxycarbonyl)amino]-2H-1,4-benzodiazepin-2-one (0.5 g, 1.2 mmol), triethylamine (0.16 ml, 1.2 mmol), dimethylformamide (10 ml) and 1-(trifiuoromethyl carbonylaminosulphonyl)-3-aminobenzene (0.32 g, 1.2 mmol). The product was purified by chromatography on silica gel eluting with dichloromethane-methanol (9:1). This afforded the title compound (60 mg, 9%) as a pale beige solid. mp 190° C. (dec.). 1H NMR (360 MHz, D6 -DMSO) δ 0.86-1.00 (1H, m), 1.10-1.67 (7H,m), 1.76 (1H, m), 1.89-1.98 (1H, m), 2.95 (1H, m), 3.33 (3H, s) 5.08 (1H, m), 7.28 (3H, m), 7.38 (1H, m), 7.52 ( 2H, m), 7.64 (1H, m), 7.77 (2H, m), 9.21 (1H,s).

reactant | 5-cyclohexyl-1,3-dihydro-1-methyl-3(R,S)-[(4-nitrophenyloxycarbonyl)amino]-2H-1,4-benzodiazepin-2-one | 1.2 mmol, 0.5 g | C1(CCCCC1)C1=NC(C(N(C2=C1C=CC=C2)C)=O)NC(=O)OC2=CC=C(C=C2)[N+](=O)[O-] | C23H24N4O5
reactant | triethylamine | 1.2 mmol, 0.16 ml | C(C)N(CC)CC | C6H15N
reactant | 1-(trifiuoromethyl carbonylaminosulphonyl)-3-aminobenzene | 1.2 mmol, 0.32 g | FC(C(=O)NS(=O)(=O)C1=CC(=CC=C1)N)(F)F | C8H7F3N2O3S
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-[3(R,S)-5-Cyclohexyl-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl] N'-[3-(trifiuoromethylcarbonylaminosulphonyl) phenyl]urea | 60 mg, 9% | C1CCCC(C1)C1(C(N(C2=C(C=N1)C=CC=C2)C)=O)NC(=O)NC2=CC(=CC=C2)S(=O)(=O)NC(=O)C(F)(F)F | C25H26F3N5O5S
